US07749992B2
Step 4. Preparation of 6-Methyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester
Add a solution of 2-[(3-Ethoxycarbonyl-propyl)-isopropoxycarbonyl-amino]-6-methyl-benzoic acid methyl ester (4.60 g, 12.6 mmol) in THF (197 mL) to a solution of potassium tert-butoxide (25.2 mL, 25.2 mmol, 1 M in THF) in THF (175 mL) at room temperature under an atmosphere of nitrogen. After 30 min, pour the mixture into ice/water. Treat aqueous phase with 1M HCl to pH neutral and extract with dichloromethane. Dry the organic layer over anhydrous sodium sulfate, filter, and remove the solvent under reduced pressure. Dissolve the former crude in DMSO (101 mL) and add water (8 drops) followed by addition of lithium chloride (1.32 g, 31.5 mmol) and heat the resulting solution at 160° C. for 45 minutes. Cool the mixture to room temperature and pour into brine. Extract the mixture with ethyl acetate. Dry the organic layers over anhydrous sodium sulfate, filter and remove the solvent under reduced pressure. Purify the residue by flash chromatography, eluting with hexanes/ethyl acetate, to afford the title compound (903 mg, 27% over two steps): MS (ES+): 262 (M+H).

reactant | 2-[(3-Ethoxycarbonyl-propyl)-isopropoxycarbonyl-amino]-6-methyl-benzoic acid methyl ester | 12.6 mmol, 4.60 g | COC(C1=C(C=CC=C1C)N(C(=O)OC(C)C)CCCC(=O)OCC)=O | C19H27NO6
reactant | potassium tert-butoxide | 25.2 mmol, 1 M, 25.2 mL | CC(C)([O-])C.[K+]
reactant | HCl | 1M | Cl | ClH
reactant | lithium chloride | 31.5 mmol, 1.32 g | [Cl-].[Li+]
solvent | THF | 197 mL | C1CCOC1 | C4H8O
solvent | THF | 175 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 6-Methyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid isopropyl ester | 903 mg, 27% | C(C)(C)OC(=O)N1C2=C(C(CCC1)=O)C(=CC=C2)C | C15H19NO3
